* OVERALL BEST CANDIDATE: 00_Phase_3_24V_Industrial_to_400V_Bus_Boost_g2_cand2_b9
* FITNESS SCORE: 0.5000
*
* Generated: 2026-06-05T21:32:07
* Constraint: Phase 3: 24V Industrial to 400V Bus (Boost)
*   vin_min = 20
*   vin_max = 28
*   vout_target = 400
*   efficiency_target = 0.94
*   power_in = 500
* Candidate: 5 of 12
* Grouped name: g2_cand2
*
* 28V to 400V Boost, 500W
Vin in 0 28
L1 in sw 22u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 320
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
Rbleed sw 0 1Meg
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
